US04508803
N-methyl-N-m-chlorobenzyl-m-fluoroaniline was prepared from 17.5 grams (0.14 mole) of N-methyl-m-fluoroaniline, 23. grams (0.14 mole) m-chlorobenzyl chloride (Aldrich), 11.9 grams anhydrous sodium acetate and 0.12 grams iodine according to the procedure described in Example III. Yield 28.6 grams (83.7 percent), boiling point 172° C. at 0.07 mmHg.

reactant | N-methyl-m-fluoroaniline | 0.14 mole, 17.5 grams | CNC1=CC(=CC=C1)F | C7H8FN
reactant | m-chlorobenzyl chloride | 0.14 mole | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | sodium acetate | 11.9 grams | C(C)(=O)[O-].[Na+]
reactant | iodine | 0.12 grams | II | I2
product | N-methyl-N-m-chlorobenzyl-m-fluoroaniline | CN(C1=CC(=CC=C1)F)CC1=CC(=CC=C1)Cl | C14H13ClFN
